* CIRCUIT: Chap17_LTspice_Fig17_34b
* YAML: /home/idies/workspace/Storage/xyu1/persistent/ALIGN-public/simple_circuit_5/OpenManus/autosizer_plus/circuits_yaml_generated/Chap17_LTspice__Fig17_34b.yaml
* Variables: ['W_nfet_g0', 'W_nfet_g1', 'C1', 'C2', 'C3', 'Chr', 'Chi']
* Trial values (midpoint): [1.47, 1.47, 1e-13, 5e-13, 1e-13, 1e-12, 1e-12]
* Metrics: ['avg_power', 'vout_swing', 'rise_time', 'fall_time', 'fom']
* Class: mosfet_analog_tran
* FOM: 1.218952395308486e-11
* FIXED: node rename {'vout': 'out'}

* Circuit: Chap17_LTspice/Fig17_34b
.lib /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/combined_models/sky130.lib.spice tt

VDD VDD 0 1
xm3 N002 phi1 VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
Vphi1 Phi1 0 PULSE(1 0 1n 10p 10p 4n 10n)
Vphi2 phi2 0 PULSE(1 0 6n 10p 10p 4n 10n)
xm1 N004 phi2 N002 VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm2 N006 Out N004 VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
C1 N002 0 1e-13
xm4 vbucket VI N006 N006 sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
Vclock clock 0 PULSE(1 0 6n 10p 10p 4n 10n)
X_U1 vbucket vd4r Out Outi clock VDD 0 Fig_17_16_no_Vos
xm5 vbucket vd4r 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.5
C2 vbucket 0 5e-13
xm6 vd4r vd4r 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.5
xm7 N001 phi1 VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm8 N003 phi2 N001 VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm9 N005 0 N003 VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
C3 N001 0 1e-13
xm10 vd4r VR N005 N005 sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
Vshr shr 0 PULSE(0 1 0 10p 10p 100n 5u)
Vshi shi 0 PULSE(0 1 120n 10p 10p 100n 5u)
Vblack Vblack 0 650m
Vinten Vinten 0 645m
Chr VR 0 1e-12
xm11 VR shr Vblack 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
Chi VI 0 1e-12
xm12 VI shi Vinten 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
.subckt Fig_17_16_no_Vos inp inm q qi clock VDD GND
  xm1 N003 inp GND 0 sky130_fd_pr__nfet_01v8 w=0.5 l=0.15
  xm2 Outm Outp VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.15
  xm3 Outp Outm VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.15
  xm5 N002 Outm N004 0 sky130_fd_pr__nfet_01v8 w=0.5 l=0.15
  xm6 N001 Outp N003 0 sky130_fd_pr__nfet_01v8 w=0.5 l=0.15
  xm4 Outm clock VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.15
  xm7 Outp clock VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.15
  xm8 Outm clock N001 0 sky130_fd_pr__nfet_01v8 w=0.5 l=0.15
  xm9 Outp clock N002 0 sky130_fd_pr__nfet_01v8 w=0.5 l=0.15
  xm10 N004 inm 0 0 sky130_fd_pr__nfet_01v8 w=0.5 l=0.15
  X_U1 Outp q qi VDD 0 NAND_2
  X_U2 qi Outm q VDD 0 NAND_2
.ends Fig_17_16_no_Vos
.subckt NAND_2 A B Out VDD GND
  xm3 out B VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.15
  xm8 out A VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.15
  xm11 N001 B GND 0 sky130_fd_pr__nfet_01v8 w=0.5 l=0.15
  xm12 out A N001 0 sky130_fd_pr__nfet_01v8 w=0.5 l=0.15
.ends NAND_2


.control
tran 1p 100n

let power = v(VDD) * abs(i(VDD))
let avg_power = mean(power)
print avg_power

meas tran vout_max MAX v(out)
meas tran vout_min MIN v(out)
let vout_swing = vout_max - vout_min
print vout_swing

meas tran rise_time TRIG v(out) VAL='0.1*vout_max' RISE=1 TARG v(out) VAL='0.9*vout_max' RISE=1
meas tran fall_time TRIG v(out) VAL='0.9*vout_max' FALL=1 TARG v(out) VAL='0.1*vout_max' FALL=1
print rise_time fall_time

quit
.endc

.end
